data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_347449_0,[C:1]([C:3](=[C:5]([H:14])[H:15])[O:6][H:8])([C:4]([C:2]([H:11])([H:12])[H:13])=[O:7])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:3]([C:4]([C:2]([H:11])([H:12])[H:13])=[O:7])([O:6][H:8])[C:5]1([H:14])[H:15],54.32141999999985
MR_630851_1,[C@:1]([C:2]([H:11])([H:12])[H:13])([O:4][H:7])([N:5][N:6][N:3]([H:9])[H:10])[H:8]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[N:5]/[N:6]([N:3]([H:9])[H:10])[O:4][H:7])[H:8],62.46323249998923
MR_626480_1,[C:1]([C:4]1(/[C:5]([C:2]([H:18])([H:19])[H:20])=[N:6]/[H:11])/[C:3](=[N:8]/[H:12])[C:7]1([N:9]([H:10])[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:4]([C:3](/[C:7](=[N:9]/[H:13])[H:14])=[N:8]/[H:12])=[C:5](\[C:2]([H:18])([H:19])[H:20])[N:6]([H:10])[H:11])([H:15])([H:16])[H:17],2.9473675000134847
MR_563708_1,[C:1]1([H:16])([H:17])[C:4]([N:2]([N:5]([H:10])[H:11])[H:9])(/[C:3]([N:6]([H:12])[H:13])=[N:7]/[H:14])[N:8]1[H:15]>>[C:1]([N:2]([N:5]([H:10])[H:11])[H:9])([C:4](/[C:3]([N:6]([H:12])[H:13])=[N:7]/[H:14])=[N:8]\[H:15])([H:16])[H:17],62.7117225000039
MR_78835_0,[C:1](/[C:2]([C:4](=[C:5]([H:14])[H:15])[H:10])=[N:6]/[C:3](=[N:7]/[H:8])[H:9])([H:11])([H:12])[H:13]>>[C:1]([C:2]12[C:4]([H:10])([C:5]1([H:14])[H:15])[N:7]([H:8])[C:3]([H:9])=[N:6]2)([H:11])([H:12])[H:13],44.83299250002176
MR_533905_1,[C:1](/[N:9]=[C:5](\[C:2]([H:18])([H:19])[H:20])[C:3](=[C:4]([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])[O:8][H:10])([H:15])([H:16])[H:17]>>[C:1]([N:9]1[C:4]([N:6]([H:11])[H:12])([N:7]([H:13])[H:14])[C:3]([O:8][H:10])=[C:5]1[C:2]([H:18])([H:19])[H:20])([H:15])([H:16])[H:17],40.64631249996268
MR_375330_2,[C:1]([C:2]([C:4]([H:17])([H:18])[H:19])([O:9][H:13])[H:14])([C:6]([C:3]([C:5]([H:20])([H:21])[H:22])([H:15])[H:16])=[O:10])([O:7][H:11])[O:8][H:12]>>[C:1]([C:6]([C:2]([C:4]([H:17])([H:18])[H:19])([O:9][H:13])[H:14])([C:3]([C:5]([H:20])([H:21])[H:22])([H:15])[H:16])[O:10][H:12])([O:7][H:11])=[O:8],45.59540499995165
MR_641154_0,[C@@:1]([C:2](/[C:4]([C:3]([H:18])([H:19])[H:20])=[C:7](/[N:5]([H:12])[H:13])[H:17])([H:15])[H:16])([C:6](=[O:9])[H:14])([O:8][H:10])[H:11]>>[C@:1]1([O:8][H:10])([H:11])[C:2]([H:15])([H:16])[C@:4]1([C:3]([H:18])([H:19])[H:20])[C@@:7]([N:5]([H:12])[H:13])([C:6](=[O:9])[H:14])[H:17],62.35279250001838
MR_622724_2,[C:1]([N:2]([N:6]([H:14])[H:15])[H:8])([N:3]([N:7]([H:16])[H:17])[H:9])([N:4]([H:10])[H:12])[N:5]([H:11])[H:13]>>[C:1]([N:2]([N:3]([N:7]([H:16])[H:17])[H:9])[H:8])([N:4]([H:10])[H:12])([N:5]([H:11])[H:13])[N:6]([H:14])[H:15],72.83643499998064
MR_521877_0,[C:1]([C:2]([N:4][N:5][H:8])=[O:6])([O:3][H:7])([H:9])[H:10]>>[C@@:1]([C:2](=[O:6])[H:10])([O:3][H:7])(/[N:4]=[N:5]/[H:8])[H:9],58.93103499995419
MR_400710_0,[C@@:1]1([C:3]([H:12])([H:13])[H:14])(/[C:6]([C:4]([H:15])([H:16])[H:17])=[C:7](\[C:5]([H:18])([H:19])[H:20])[H:11])[C:2]([H:9])([H:10])[O:8]1>>[C:1]1([C:3]([H:12])([H:13])[H:14])(/[C:6]([C:4]([H:15])([H:16])[H:17])=[C:7](\[C:5]([H:18])([H:19])[H:20])[H:11])[C:2]([H:9])([H:10])[O:8]1,53.48935499999613
MR_41966_2,[N:1](/[C:2]([N:4]([H:10])[H:11])=[N:6]\[H:12])([N:3]([H:8])[H:9])/[C:5](=[N:7]/[H:13])[H:14]>>[N:1](/[C:2]([N:4]([H:10])[H:11])=[N:6]\[H:12])=[C:5](\[N:7]([N:3]([H:8])[H:9])[H:13])[H:14],72.26038999997257
MR_40430_0,[C@@:1]([C:2]([H:11])([H:12])[H:13])(/[C:3](=[N:6]/[O:4][H:7])[H:10])([O:5][H:8])[H:9]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:3](\[N:6]([O:4][H:7])[H:9])[H:10])[O:5][H:8],71.04241250001579
MR_81963_1,[C:1]([C:2](=[O:7])[H:12])([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])[C:5]([N:6]([H:10])[H:11])([O:8][H:9])[H:13]>>[C:1]([C:2]([O:7][H:9])([H:12])[H:13])([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])[C:5]([N:6]([H:10])[H:11])=[O:8],46.71737500000816
MR_325403_0,[C:1]([C:2](=[O:5])[H:11])([N:3]([H:9])[H:10])([C:4]([O:6][H:7])([H:12])[H:13])[H:8]>>[C:1]([C:2]([O:5][H:7])([H:11])[H:12])([N:3]([H:9])[H:10])([C:4](=[O:6])[H:13])[H:8],56.41162250000164
MR_621716_0,[C:1]([C:2]([H:10])([H:11])[H:12])(=[O:5])[N:6]([C:4]([C:3]([H:13])([H:14])[H:15])=[O:8])[O:7][H:9]>>[C:1]([C:2]([H:10])([H:11])[H:12])([C:4]([C:3]([H:13])([H:14])[H:15])=[O:8])([O:5][H:9])[N:6]=[O:7],55.729529999975966
MR_93684_0,[C:1](/[C:4](=[C:3](/[N:2]([O:5][H:7])[H:9])[O:6][H:8])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4](/[C:3](=[N:2]/[O:5][H:7])[O:6][H:8])([H:9])[H:10])([H:11])([H:12])[H:13],45.47304249997524
MR_14199_2,[C:1]([C:4](/[N:5]=[N:2]/[N:3]([H:7])[H:8])([H:6])[H:9])([H:10])([H:11])[H:12]>>[C:1](/[C:4](=[N:5]/[N:2]([N:3]([H:7])[H:8])[H:9])[H:6])([H:10])([H:11])[H:12],68.36173249998886
MR_691917_1,[C@@:1]([C:3]([C:2]([H:13])([H:14])[H:15])=[O:8])([O:5][H:9])(/[N:7]=[C:4](\[O:6][H:10])[H:12])[H:11]>>[C:1]([O:5][H:9])([N:7][C@@:4]([C:3]([C:2]([H:13])([H:14])[H:15])=[O:8])([O:6][H:10])[H:12])[H:11],72.0595899999445
MR_305417_2,[C@@:1]1([C:4]([C:3]([O:7][H:9])=[O:8])=[C:5]([H:13])[H:14])([H:10])[C:2]([H:11])([H:12])[O:6]1>>[C:1]1([C:4]([C:3]([O:7][H:9])=[O:8])=[C:5]([H:13])[H:14])([H:10])[C:2]([H:11])([H:12])[O:6]1,57.553044999973366
